US08309566B2
2-[(1S,4S)-5-Methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-5-nitrotoluene (3.3 g) was dissolved in EtOH (50 mL) and transferred to Parr hydrogenation flask. Catalyst, Pd/C (450 mg), was added and the mixture subjected to hydrogenation at 30 PSI for 2 h. The reaction mixture was filtered through Celite and the Celite filter cake washed with EtOH. Concentration of the combined filtrate provided 3-methyl-4-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]heptan-2-yl]aniline, as a tan solid (2.52 g, 86%). 1H NMR (DMSO-d6): δ 6.58 (d, 1H, J=8.8 Hz), 6.34 (s, 1H), 6.27 (d, 1H, J=8.8 Hz), 4.46 (s, 2H), 3.61 (s, 1H), 3.24 (s, 1H), 3.16 (d, 1H, J=9.3 Hz), 2.93 (dd, 1H, J=1.8 and 9.3 Hz), 2.61 (qt, 2H, J=9.3 Hz), 2.26 (s, 3H), 2.05 (s, 3H), 1.70 (d, 1H, J=9.1 Hz), 1.63 (d, 1H, J=9.1 Hz). LCMS: purity: 97%; MS (m/e): 218 (MH+).

reactant | 2-[(1S,4S)-5-Methyl-2,5-diazabicyclo[2.2.1]hept-2-yl]-5-nitrotoluene | 3.3 g | CN1[C@@H]2CN([C@H](C1)C2)C2=C(C=C(C=C2)[N+](=O)[O-])C | C13H17N3O2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | 3-methyl-4-[(1S,4S)-5-methyl-2,5-diazabicyclo[2.2.1]heptan-2-yl]aniline | CC=1C=C(N)C=CC1N1[C@@H]2CN([C@H](C1)C2)C | C13H19N3
